US05728686
[1-(3,7-Dimethylxanthin-1-yl)methyl]dimethylphosphine Oxide
A solution of 20.2 g (0.1 mol) of theophylline sodium salt in 400 ml of DMF was heated at 130° C. for 3 hours with 12.7 g of chloromethyldimethyl-phosphine oxide. The solution was filtered, the solvent was evaporated and the residue was taken up in methanol. The precipitate was filtered off and dried to constant weight under reduced pressure.

reactant | theophylline sodium salt | 0.1 mol, 20.2 g | [Na].N1(C)C(=O)N(C)C=2N=CNC2C1=O
reactant | chloromethyldimethyl-phosphine oxide | 12.7 g | ClCP(C)(C)=O | C3H8ClOP
reactant | DMF | 400 ml | CN(C)C=O | C3H7NO
product | [1-(3,7-Dimethylxanthin-1-yl)methyl]dimethylphosphine Oxide | CN1C(N(C(C=2N(C=NC12)C)=O)CP(C)(C)=O)=O | C10H15N4O3P
